R1 ( net25 net67)  R=8.3E0
T2 ( net67 net19 vdd! vdd!)  pfet  L=7.27E-6 W=7.30E-6
T3 ( net66 net19 vdd! vdd!)  pfet  L=7.27E-6 W=7.30E-6
T4 ( 0 net67 net19 vdd!)  pfet  L=7.27E-6 W=7.30E-6
R5 (net74 net107) R=8.6E6
R6 ( net32 net99)  R=7.6E5
T7 ( net99 net59 vdd! vdd!)  pfet  L=8.21E-6 W=6.21E-6
T8 ( net104 net59 vdd! vdd!)  pfet  L=8.21E-6 W=6.21E-6
T9 ( net46 net99 net104 vdd!)  pfet  L=8.21E-6 W=6.21E-6
C10 (net50 net28) C=0.2E-5
C11 (net37 net28) C=3.9E-7
T12 (net55 net96 net96 0) pfet L=2.19E-6 W=8.63E-6
T13 ( net103 net103 vdd! vdd!)  pfet  L=9.77E-6 W=2.30E-6
T14 ( net33 net103 vdd! vdd!)  pfet  L=9.77E-6 W=2.30E-6
R15 ( net33 net17)  R=7.3E0
C16 (net29 net84) C=8.0E-6
T17 (vdd! net43 net43 0) pfet L=0.41E-6 W=4.12E-6
T18 (net93 net69 net69 0) pfet L=3.75E-6 W=1.47E-6
R19 (net102 net95) R=2.4E4
C20 (net29 0) C=9.3E-9
T21 (net64 net77 net77 0) pfet L=3.38E-6 W=9.43E-6
C22 (net22 net105) C=9.6E-12
R23 ( net54 net43)  R=4.7E4
T24 ( net43 net43 vdd! vdd!)  pfet  L=5.61E-6 W=5.81E-6
T25 ( net1 net43 vdd! vdd!)  pfet  L=5.61E-6 W=5.81E-6
T26 (net89 net2 net2 0) nfet L=8.27E-6 W=7.07E-6
R27 (net30 net90) R=9.9E6
C28 (net4 net88) C=7.2E-6
T29 (net64 net13 net13 0) nfet L=6.13E-6 W=7.50E-6
R30 (net83 net84) R=2.4E4
C31 (0 net76) C=6.9E-11
R32 (net63 net85) R=9.0E5
T33 (net76 net91 net91 0) nfet L=4.14E-6 W=1.25E-6
T34 (0 net8 net8 0) nfet L=5.03E-6 W=6.58E-6
R35 (net107 net65) R=6.2E2
R36 (net105 net69) R=0.9E5
R37 (net65 net90) R=7.3E1
C38 (0 net101) C=9.5E-9
C39 (net18 net6) C=5.5E-5
C40 (net60 net26) C=4.9E-13
T41 (net13 net47 net47 0) pfet L=7.72E-6 W=6.44E-6
T42 (net5 net69 net69 0) pfet L=6.47E-6 W=5.30E-6
T43 (net39 net85 net85 0) pfet L=3.98E-6 W=5.20E-6
R44 (net54 0) R=5.8E2
T45 (net37 net34 net34 0) nfet L=6.70E-6 W=3.99E-6
T46 (net42 net85 net85 0) pfet L=7.46E-6 W=9.57E-6
T47 (net4 net77 net77 0) pfet L=8.86E-6 W=1.07E-6
C48 (net105 net41) C=9.5E-14
R49 (0 net17) R=0.2E0
C50 (net63 net6) C=5.7E-9
T51 (net27 net98 net98 0) pfet L=7.50E-6 W=4.51E-6
T52 (net38 net3 net3 0) pfet L=2.30E-6 W=4.68E-6
T53 (0 net3 net3 0) pfet L=0.52E-6 W=6.12E-6
T54 (net91 net13 net13 0) nfet L=1.81E-6 W=8.51E-6
T55 (net69 net62 net62 0) pfet L=1.46E-6 W=3.15E-6
R56 (net88 vdd!) R=1.4E5
T57 (net15 net32 net32 0) nfet L=8.00E-6 W=7.22E-6
R58 (net38 net15) R=7.8E6
T59 (net72 net40 net40 0) pfet L=7.35E-6 W=6.94E-6
T60 (net55 net24 net24 0) nfet L=5.75E-6 W=7.15E-6
C61 (net1 net71) C=7.9E-7
T62 (net22 net87 net87 0) pfet L=8.18E-6 W=7.41E-6
C63 (net71 net15) C=5.6E-14
R64 (net7 vdd!) R=3.3E5
C65 (net46 net95) C=1.8E-7
T66 (net102 net55 net55 0) pfet L=5.51E-6 W=4.13E-6
R67 (vdd! net31) R=9.7E0
T68 (net71 net44 net44 0) nfet L=5.15E-6 W=6.06E-6
R69 (net79 0) R=3.4E3
C70 (net83 net103) C=5.5E-8
C71 (net103 net54) C=0.5E-7
R72 (vdd! net106) R=9.1E5
T73 (net22 net66 net66 0) nfet L=0.29E-6 W=6.42E-6
T74 (net74 net22 net22 0) pfet L=0.98E-6 W=0.27E-6
T75 (net80 0 0 0) nfet L=7.77E-6 W=7.03E-6
T76 (net18 net6 net6 0) pfet L=8.26E-6 W=6.51E-6
C77 (net106 net70) C=9.0E-13
T78 (net48 net36 net36 0) pfet L=1.23E-6 W=1.36E-6
T79 (net37 net101 net101 0) pfet L=5.23E-6 W=4.13E-6
T80 (net16 net106 net106 0) nfet L=3.34E-6 W=1.17E-6
T81 (net86 net20 net20 0) pfet L=4.14E-6 W=9.57E-6
T82 (net98 net57 net57 0) nfet L=6.44E-6 W=5.44E-6
R83 (net85 net5) R=9.3E0
C84 (net39 net44) C=1.7E-5
T85 (net11 net42 net42 0) pfet L=5.51E-6 W=5.06E-6
T86 (net11 net106 net106 0) pfet L=4.44E-6 W=7.64E-6
T87 (net97 net50 net50 0) nfet L=5.67E-6 W=8.40E-6
R88 (net49 net47) R=2.5E2
T89 (net106 net96 net96 0) pfet L=9.34E-6 W=3.26E-6
R90 (net22 net65) R=8.6E5
T91 (net42 net41 net41 0) pfet L=5.81E-6 W=5.43E-6
R92 (0 vdd!) R=3.4E0
C93 (net86 net16) C=9.3E-10
R94 (net14 net38) R=1.4E4
R95 (net91 net68) R=4.6E6
T96 (net30 net28 net28 0) nfet L=4.96E-6 W=8.64E-6
T97 (net14 net72 net72 0) pfet L=3.34E-6 W=0.72E-6
T98 (net80 net5 net5 0) pfet L=6.65E-6 W=7.61E-6
R99 (net100 0) R=6.3E3
T100 (net94 net46 net46 0) pfet L=8.58E-6 W=3.67E-6
R101 (net35 net78) R=0.5E1
T102 (net44 net85 net85 0) nfet L=0.78E-6 W=8.15E-6
T103 (net34 net95 net95 0) pfet L=9.23E-6 W=9.15E-6
T104 (net41 net84 net84 0) pfet L=2.32E-6 W=7.36E-6
C105 (net83 net94) C=3.9E-6
R106 (net81 net90) R=0.5E6
T107 (net103 net26 net26 0) pfet L=5.96E-6 W=1.85E-6
R108 (net1 net37) R=8.9E5
T109 (net69 net78 net78 0) nfet L=1.02E-6 W=9.81E-6
C110 (net89 net10) C=9.1E-5
C111 (net31 net13) C=5.4E-6
R112 (net49 0) R=8.8E6
T113 (net30 net102 net102 0) nfet L=7.09E-6 W=3.95E-6
T114 (net28 net15 net15 0) pfet L=4.04E-6 W=8.20E-6
T115 (net56 net7 net7 0) nfet L=1.98E-6 W=3.38E-6
T116 (net5 net70 net70 0) nfet L=3.87E-6 W=4.61E-6
C117 (net4 net28) C=4.9E-12
T118 (net76 net62 net62 0) nfet L=2.93E-6 W=5.76E-6
R119 (net13 net51) R=3.3E5
R120 (net74 net57) R=1.4E1
T121 (net78 net74 net74 0) nfet L=1.76E-6 W=2.36E-6
R122 (net55 net58) R=8.9E4
C123 (net35 net97) C=7.0E-6
C124 (net31 net66) C=1.5E-6
T125 (0 net61 net61 0) nfet L=9.83E-6 W=7.61E-6
T126 (net39 net90 net90 0) nfet L=3.35E-6 W=4.77E-6
C127 (0 net52) C=9.6E-7
T128 (net13 net21 net21 0) pfet L=4.89E-6 W=2.76E-6
C129 (net44 net27) C=6.4E-13
R130 (net9 net77) R=7.6E2
R131 (net1 net87) R=1.8E2
T132 (net65 net70 net70 0) pfet L=1.74E-6 W=8.66E-6
R133 (net61 net75) R=4.3E6
C134 (net94 net46) C=0.6E-9
T135 (net17 net13 net13 0) pfet L=7.40E-6 W=9.42E-6
C136 (net27 net75) C=0.2E-10
T137 (net27 net72 net72 0) nfet L=0.33E-6 W=5.88E-6
T138 (net57 net68 net68 0) pfet L=3.11E-6 W=1.09E-6
T139 (net32 net49 net49 0) pfet L=2.10E-6 W=6.62E-6
C140 (net86 net96) C=9.4E-14
T141 (net22 net83 net83 0) nfet L=2.85E-6 W=9.37E-6
T142 (net32 net1 net1 0) pfet L=4.08E-6 W=3.51E-6
T143 (net81 net18 net18 0) pfet L=0.77E-6 W=5.05E-6
T144 (net15 net61 net61 0) nfet L=7.91E-6 W=2.98E-6
C145 (net76 net48) C=5.5E-7
T146 (0 net106 net106 0) pfet L=6.61E-6 W=1.09E-6
R147 (net77 net64) R=7.7E6
T148 (net62 net38 net38 0) nfet L=9.98E-6 W=7.99E-6
T149 (net4 vdd! vdd! 0) nfet L=5.33E-6 W=2.07E-6
T150 (0 net55 net55 0) pfet L=3.70E-6 W=9.07E-6
R151 (net52 net47) R=6.7E6
C152 (net84 net36) C=7.6E-14
T153 (net77 net30 net30 0) nfet L=7.01E-6 W=5.61E-6
T154 (net47 net100 net100 0) nfet L=6.03E-6 W=7.58E-6
C155 (net60 vdd!) C=2.7E-12
T156 (net23 net27 net27 0) pfet L=6.49E-6 W=0.44E-6
T157 (0 net36 net36 0) nfet L=4.60E-6 W=6.52E-6
R158 (0 net65) R=7.7E1
C159 (0 net83) C=6.2E-5
C160 (net81 net72) C=8.1E-13
T161 (net88 net90 net90 0) pfet L=2.71E-6 W=2.68E-6
T162 (net68 0 0 0) nfet L=8.71E-6 W=0.46E-6
T163 (net25 net52 net52 0) pfet L=7.96E-6 W=9.60E-6
R164 (net103 net79) R=6.6E0
C165 (net41 net63) C=9.8E-7
T166 (0 net58 net58 0) nfet L=6.49E-6 W=0.55E-6
T167 (0 net41 net41 0) nfet L=5.58E-6 W=3.21E-6
C168 (net81 net49) C=3.3E-13
C169 (0 net93) C=5.3E-10
C170 (net73 net87) C=3.2E-7
R171 (net103 net17) R=1.3E1
T172 (net61 net63 net63 0) nfet L=1.75E-6 W=7.89E-6

