C1 (net6 net5) C=8.2E-5
R2 (net1 net8) R=7.0E4
T3 (net2 net4 net4 0) pfet L=3.90E-6 W=5.24E-6
R4 (net4 net2) R=6.0E5
C5 (net11 net3) C=7.8E-12
T6 (net6 net1 net1 0) pfet L=7.76E-6 W=6.84E-6
R7 ( net8 net1)  R=9.5E3
T8 ( net1 net1 net10 0)  nfet  L=9.69E-6 W=0.73E-6
T9 ( net10 net5 0 0)  nfet  L=9.69E-6 W=0.73E-6
T10 ( net5 net5 0 0)  nfet  L=9.69E-6 W=0.73E-6
T11 ( vdd! net1 net5 0)  nfet  L=9.69E-6 W=0.73E-6
T12 (net4 net6 net6 0) nfet L=6.30E-6 W=5.94E-6
T13 (net12 net4 net4 0) nfet L=7.99E-6 W=9.50E-6
T14 (net4 net11 net11 0) nfet L=8.82E-6 W=5.62E-6

