R477 ( net150 net74)  R=4.4E5
T478 ( net74 net374 vdd! vdd!)  pfet  L=9.43E-6 W=7.25E-6
T479 ( vdd! net374 vdd! vdd!)  pfet  L=9.43E-6 W=7.25E-6
T480 ( 0 net74 net374 vdd!)  pfet  L=9.43E-6 W=7.25E-6
