R417 ( net192 net230)  R=4.8E2
T418 ( net230 net200 0 0)  nfet  L=2.12E-6 W=8.47E-6
T419 ( net40 net200 0 0)  nfet  L=2.12E-6 W=8.47E-6
T420 ( vdd! net230 net200 0)  nfet  L=2.12E-6 W=8.47E-6
