R693 ( net34 net84)  R=0.3E1
T694 ( net84 net9 vdd! vdd!)  pfet  L=4.86E-6 W=6.49E-6
T695 ( net82 net9 vdd! vdd!)  pfet  L=4.86E-6 W=6.49E-6
T696 ( net60 net84 net82 vdd!)  pfet  L=4.86E-6 W=6.49E-6
