R841 ( net381 net558)  R=7.2E5
T842 ( net558 net558 net147 0)  nfet  L=9.90E-6 W=1.99E-6
T843 ( net147 net311 0 0)  nfet  L=9.90E-6 W=1.99E-6
T844 ( net311 net311 0 0)  nfet  L=9.90E-6 W=1.99E-6
T845 ( net558 net558 net311 0)  nfet  L=9.90E-6 W=1.99E-6
