R155 ( net214 net249)  R=3.1E3
T156 ( net249 net27 0 0)  nfet  L=9.99E-6 W=5.53E-6
T157 ( net267 net27 0 0)  nfet  L=9.99E-6 W=5.53E-6
T158 ( vdd! net249 net27 0)  nfet  L=9.99E-6 W=5.53E-6
