R200 ( vdd! net91)  R=4.9E4
T201 ( net91 net249 0 0)  nfet  L=4.64E-6 W=2.14E-6
T202 ( net351 net249 0 0)  nfet  L=4.64E-6 W=2.14E-6
T203 ( vdd! net91 net249 0)  nfet  L=4.64E-6 W=2.14E-6
