R26 ( net625 net442)  R=6.7E1
T27 ( net442 net442 net111 0)  nfet  L=5.90E-6 W=0.94E-6
T28 ( net111 net369 0 0)  nfet  L=5.90E-6 W=0.94E-6
T29 ( net369 net369 0 0)  nfet  L=5.90E-6 W=0.94E-6
T30 ( vdd! net442 net369 0)  nfet  L=5.90E-6 W=0.94E-6
