R708 ( net75 net20)  R=4.2E3
T709 ( net20 net80 vdd! vdd!)  pfet  L=7.24E-6 W=5.21E-6
T710 ( net78 net80 vdd! vdd!)  pfet  L=7.24E-6 W=5.21E-6
T711 ( 0 net20 net80 vdd!)  pfet  L=7.24E-6 W=5.21E-6
