R918 ( net87 net82)  R=2.4E2
T919 ( net82 net88 vdd! vdd!)  pfet  L=4.02E-6 W=2.47E-6
T920 ( net38 net88 vdd! vdd!)  pfet  L=4.02E-6 W=2.47E-6
T921 ( 0 net82 net88 vdd!)  pfet  L=4.02E-6 W=2.47E-6
