R333 ( net103 net248)  R=7.2E2
T334 ( net248 net390 0 0)  nfet  L=3.52E-6 W=2.06E-6
T335 ( net145 net390 0 0)  nfet  L=3.52E-6 W=2.06E-6
T336 ( vdd! net248 net390 0)  nfet  L=3.52E-6 W=2.06E-6
