R879 ( net109 net14)  R=7.4E4
T880 ( net14 net14 net130 vdd!)  pfet  L=4.85E-6 W=5.61E-6
T881 ( net130 net142 vdd! vdd!)  pfet  L=4.85E-6 W=5.61E-6
T882 ( net142 net142 vdd! vdd!)  pfet  L=4.85E-6 W=5.61E-6
T883 ( net347 net14 net142 vdd!)  pfet  L=4.85E-6 W=5.61E-6
