R73 ( net7 net393)  R=9.5E6
T74 ( net393 net393 net64 0)  nfet  L=0.14E-6 W=0.35E-6
T75 ( net64 net17 0 0)  nfet  L=0.14E-6 W=0.35E-6
T76 ( net17 net17 0 0)  nfet  L=0.14E-6 W=0.35E-6
T77 ( net180 net393 net17 0)  nfet  L=0.14E-6 W=0.35E-6
