R229 ( net3 net91)  R=3.0E6
T230 ( net91 net71 vdd! vdd!)  pfet  L=0.69E-6 W=0.50E-6
T231 ( net52 net71 vdd! vdd!)  pfet  L=0.69E-6 W=0.50E-6
T232 ( 0 net91 net71 vdd!)  pfet  L=0.69E-6 W=0.50E-6
