R666 ( net47 net344)  R=5.2E2
T667 ( net344 net380 vdd! vdd!)  pfet  L=6.80E-6 W=6.45E-6
T668 ( net84 net380 vdd! vdd!)  pfet  L=6.80E-6 W=6.45E-6
T669 ( 0 net344 net380 vdd!)  pfet  L=6.80E-6 W=6.45E-6
