R550 ( net475 net401)  R=8.6E4
T551 ( net401 net540 0 0)  nfet  L=4.46E-6 W=1.93E-6
T552 ( net58 net540 0 0)  nfet  L=4.46E-6 W=1.93E-6
T553 ( net152 net401 net58 0)  nfet  L=4.46E-6 W=1.93E-6
