R827 ( net77 net61)  R=5.7E0
T828 ( net61 net32 0 0)  nfet  L=0.38E-6 W=4.57E-6
T829 ( net18 net32 0 0)  nfet  L=0.38E-6 W=4.57E-6
T830 ( vdd! net61 net18 0)  nfet  L=0.38E-6 W=4.57E-6
