T1 (net1 net17 net17 0) pfet L=5.90E-6 W=6.96E-6
R2 (net20 net17) R=2.1E2
C3 (0 net9) C=4.8E-11
T4 (net10 net5 net5 0) nfet L=1.44E-6 W=7.12E-6
C5 (net8 net16) C=3.0E-10
R6 ( net6 net9)  R=5.9E6
T7 ( net9 net9 0 0)  nfet  L=9.31E-6 W=3.34E-6
T8 ( net16 net9 0 0)  nfet  L=9.31E-6 W=3.34E-6
T9 (net14 net4 net4 0) pfet L=9.93E-6 W=9.81E-6
R10 (vdd! net22) R=0.2E3
R11 (net11 net18) R=0.1E2
T12 (net16 net14 net14 0) pfet L=1.78E-6 W=1.33E-6
T13 (vdd! net14 net14 0) nfet L=5.82E-6 W=2.57E-6
C14 (net15 net20) C=5.5E-6
T15 (net22 net7 net7 0) nfet L=3.17E-6 W=8.79E-6
T16 ( net20 net20 0 0)  nfet  L=8.89E-6 W=4.05E-6
T17 ( net18 net20 0 0)  nfet  L=8.89E-6 W=4.05E-6
R18 ( net18 net23)  R=6.4E6
C19 (net7 net17) C=1.6E-10
R20 (net15 net7) R=2.3E5
T21 (net14 net11 net11 0) nfet L=9.57E-6 W=3.16E-6
R22 (net2 net14) R=4.9E1
T23 (net12 net16 net16 0) pfet L=4.29E-6 W=6.43E-6
T24 (net12 net13 net13 0) nfet L=2.60E-6 W=1.25E-6
R25 (net16 net19) R=5.0E5
T26 (net11 net2 net2 0) pfet L=8.00E-6 W=3.82E-6
T27 (net22 net12 net12 0) nfet L=0.49E-6 W=3.19E-6

