C1 (net1 net11) C=0.3E-9
T2 (net3 net3 net3 0) nfet L=7.16E-6 W=1.65E-6
C3 (net9 net6) C=1.4E-13
T4 (net3 net14 net14 0) nfet L=5.45E-6 W=6.71E-6
R5 (net13 net14) R=5.6E1
T6 (net20 vdd! vdd! 0) nfet L=3.91E-6 W=9.71E-6
R7 (net1 net3) R=8.0E6
R8 (net20 vdd!) R=0.2E4
C9 (vdd! net3) C=2.1E-7
C10 (net10 net15) C=4.1E-10
T11 (net19 net20 net20 0) pfet L=6.63E-6 W=4.88E-6
R12 (net10 net5) R=9.0E2
C13 (net15 net7) C=3.3E-10
C14 (net3 net7) C=5.6E-13
C15 (net19 net12) C=5.9E-7
C16 (net17 0) C=1.3E-10
C17 (net2 net11) C=5.7E-5
R18 (net3 net4) R=9.8E2
T19 (net7 net3 net3 0) pfet L=8.75E-6 W=1.64E-6
R20 (net18 net21) R=6.1E5
T21 (net9 net17 net17 0) nfet L=5.99E-6 W=3.40E-6
T22 (net15 net6 net6 0) nfet L=0.59E-6 W=4.48E-6
R23 (net19 net17) R=8.7E3
R24 (net11 net6) R=3.5E3
T25 (net21 net17 net17 0) pfet L=2.90E-6 W=8.13E-6
C26 (net9 net7) C=0.1E-5
T27 (net14 net11 net11 0) pfet L=0.46E-6 W=4.92E-6
C28 (net20 net7) C=9.2E-13
R29 (0 net8) R=2.9E2
C30 (net8 net14) C=4.0E-11
T31 (net17 net13 net13 0) nfet L=7.16E-6 W=4.64E-6
C32 (net13 net21) C=4.4E-5
T33 (vdd! net17 net17 0) pfet L=2.79E-6 W=8.43E-6
C34 (net11 net6) C=5.4E-11
T35 (net14 net15 net15 0) nfet L=8.30E-6 W=6.60E-6
T36 (net7 net12 net12 0) nfet L=8.96E-6 W=8.93E-6
C37 (net14 net13) C=0.2E-7
C38 (net18 net5) C=5.6E-6
T39 (net18 net11 net11 0) nfet L=2.81E-6 W=7.42E-6
T40 (net8 net11 net11 0) pfet L=5.71E-6 W=1.35E-6
R41 (net21 0) R=2.4E1
R42 (net8 vdd!) R=8.3E2
R43 (net1 net13) R=4.8E4
T44 (0 net6 net6 0) nfet L=4.42E-6 W=8.83E-6
C45 (net14 net19) C=6.6E-9
T46 (vdd! net1 net1 0) nfet L=5.99E-6 W=3.81E-6
C47 (net9 net13) C=5.4E-6
R48 (net18 net7) R=7.9E5
R49 (net8 net17) R=1.0E1
T50 (net6 net2 net2 0) nfet L=5.00E-6 W=0.66E-6
T51 (net20 net15 net15 0) pfet L=3.93E-6 W=7.02E-6
T52 (net10 vdd! vdd! 0) nfet L=9.92E-6 W=1.70E-6
C53 (net6 net10) C=3.9E-13
C54 (net4 net7) C=2.1E-5
R55 (net2 net11) R=6.0E6
C56 (net19 net18) C=2.2E-11

