T1 (net3 net4 net4 0) nfet L=3.65E-6 W=7.03E-6
T2 (net1 net8 net8 0) nfet L=7.42E-6 W=1.85E-6
T3 (vdd! net2 net2 0) nfet L=3.39E-6 W=0.20E-6
R4 (net17 net19) R=8.8E6
C5 (net8 net12) C=3.4E-9
T6 (net15 net6 net6 0) pfet L=5.14E-6 W=9.72E-6
T7 (net9 net3 net3 0) nfet L=6.34E-6 W=5.40E-6
C8 (net11 net13) C=5.4E-11
C9 (net11 net7) C=1.1E-9
T10 (net16 net8 net8 0) nfet L=8.09E-6 W=4.46E-6
C11 (net7 net9) C=8.7E-9
T12 (net12 net13 net13 0) pfet L=3.78E-6 W=7.21E-6
R13 ( 0 net7)  R=6.9E0
T14 ( net7 net7 vdd! vdd!)  pfet  L=0.22E-6 W=8.65E-6
T15 ( net8 net7 vdd! vdd!)  pfet  L=0.22E-6 W=8.65E-6
C16 (net10 net4) C=9.6E-6
C17 (net19 net13) C=0.2E-7
T18 (net8 net9 net9 0) nfet L=0.16E-6 W=7.76E-6
T19 (net12 net19 net19 0) pfet L=2.53E-6 W=2.01E-6
T20 (net3 net9 net9 0) pfet L=3.04E-6 W=2.02E-6
R21 (net17 net12) R=9.7E6
C22 (net8 net11) C=5.1E-13

