R1 (net14 net27) R=5.3E1
T2 (net9 net25 net25 0) pfet L=7.17E-6 W=1.06E-6
T3 (net23 vdd! vdd! 0) nfet L=7.30E-6 W=8.13E-6
C4 (net13 net17) C=8.4E-13
C5 (vdd! net5) C=4.1E-5
R6 (net17 net13) R=2.6E6
C7 (net18 net5) C=3.0E-12
C8 (net18 net23) C=6.8E-7
T9 (0 net18 net18 0) nfet L=3.60E-6 W=5.08E-6
R10 (net26 net1) R=0.7E0
T11 (net24 net25 net25 0) nfet L=3.26E-6 W=7.41E-6
R12 (net16 net29) R=3.5E2
R13 (vdd! net4) R=6.9E6
T14 (net9 net4 net4 0) nfet L=1.59E-6 W=0.30E-6
C15 (net22 net24) C=2.8E-13
R16 (net5 net26) R=3.9E6
R17 (net14 net21) R=1.5E0
T18 (net18 net12 net12 0) pfet L=0.85E-6 W=5.36E-6
C19 (net26 net1) C=2.1E-7
R20 (net5 net11) R=1.8E0
T21 (net3 net28 net28 0) pfet L=1.24E-6 W=5.42E-6
C22 (net29 0) C=5.6E-13
R23 (net19 net25) R=8.5E3
T24 (vdd! net6 net6 0) pfet L=9.38E-6 W=7.82E-6
R25 (net7 net20) R=9.1E3
C26 (net20 net12) C=6.7E-10
C27 (net3 net29) C=8.4E-14
T28 (vdd! net17 net17 0) nfet L=8.96E-6 W=8.64E-6
R29 (net14 net20) R=0.4E6
T30 (vdd! net12 net12 0) nfet L=2.21E-6 W=7.30E-6
T31 (net17 net15 net15 0) nfet L=4.05E-6 W=0.69E-6
T32 (vdd! net22 net22 0) pfet L=5.76E-6 W=7.88E-6
T33 (vdd! net11 net11 0) pfet L=4.03E-6 W=4.54E-6
R34 (net18 net17) R=7.0E6
R35 (net7 net8) R=7.2E1
T36 (net6 0 0 0) nfet L=4.66E-6 W=2.31E-6
T37 (0 net28 net28 0) pfet L=4.83E-6 W=5.52E-6
C38 (net26 net8) C=3.7E-7
T39 (net17 net16 net16 0) pfet L=8.20E-6 W=7.47E-6
R40 ( net26 net19)  R=0.2E6
T41 ( net19 net5 0 0)  nfet  L=3.68E-6 W=1.23E-6
T42 ( net14 net5 0 0)  nfet  L=3.68E-6 W=1.23E-6
T43 ( vdd! net19 net5 0)  nfet  L=3.68E-6 W=1.23E-6
R44 (net7 net21) R=1.9E2
C45 (net13 net23) C=7.6E-8
T46 (net4 net1 net1 0) nfet L=5.96E-6 W=4.23E-6
R47 (net1 net14) R=4.7E5
R48 (net15 net28) R=6.2E3
T49 (net11 net8 net8 0) nfet L=5.23E-6 W=2.11E-6
R50 (net29 net2) R=3.5E4
R51 (net18 net12) R=6.4E0
C52 (net9 net13) C=9.2E-14
T53 (net1 net14 net14 0) nfet L=9.93E-6 W=5.16E-6
T54 (net8 net23 net23 0) pfet L=6.70E-6 W=6.07E-6
T55 (net28 net6 net6 0) nfet L=1.88E-6 W=7.42E-6
R56 (0 net4) R=7.0E5

