C1 (net4 net7) C=8.7E-8
R2 ( net13 net8)  R=9.3E3
T3 ( net8 net8 net3 0)  nfet  L=1.37E-6 W=7.71E-6
T4 ( net3 net17 0 0)  nfet  L=1.37E-6 W=7.71E-6
T5 ( net17 net17 0 0)  nfet  L=1.37E-6 W=7.71E-6
T6 ( net11 net8 net17 0)  nfet  L=1.37E-6 W=7.71E-6
C7 (net11 net5) C=5.6E-12
T8 (net4 net9 net9 0) pfet L=9.41E-6 W=3.30E-6
R9 (net10 net4) R=4.0E4
T10 (net6 net13 net13 0) nfet L=2.00E-6 W=6.33E-6
T11 (net19 net13 net13 0) pfet L=0.63E-6 W=5.54E-6
C12 (net6 net11) C=1.2E-9
R13 (net16 net13) R=5.3E0
T14 (net19 net4 net4 0) nfet L=1.41E-6 W=0.53E-6

