T1 (net3 net21 net21 0) pfet L=2.28E-6 W=9.41E-6
T2 (net17 net24 net24 0) nfet L=7.12E-6 W=6.09E-6
R3 (net23 0) R=8.1E0
T4 (net12 net25 net25 0) pfet L=3.27E-6 W=1.79E-6
R5 (net11 net10) R=5.5E1
T6 (net23 net18 net18 0) nfet L=0.29E-6 W=0.38E-6
T7 (net18 net21 net21 0) pfet L=1.00E-6 W=1.73E-6
T8 (net8 net2 net2 0) pfet L=7.75E-6 W=0.16E-6
T9 (net2 net11 net11 0) pfet L=0.37E-6 W=2.41E-6
R10 (vdd! net18) R=8.2E3
T11 (net12 net5 net5 0) nfet L=3.44E-6 W=0.94E-6
R12 (net13 net3) R=1.2E4
T13 (net9 net19 net19 0) nfet L=4.26E-6 W=4.12E-6
R14 (net19 net21) R=1.1E4
R15 (net15 net22) R=0.5E1
T16 (net23 net16 net16 0) pfet L=2.11E-6 W=0.71E-6
T17 (net5 net5 net5 0) nfet L=7.07E-6 W=4.04E-6
R18 ( vdd! net22)  R=7.6E0
T19 ( net22 net15 vdd! vdd!)  pfet  L=5.14E-6 W=3.78E-6
T20 ( net18 net15 vdd! vdd!)  pfet  L=5.14E-6 W=3.78E-6
T21 ( 0 net22 net15 vdd!)  pfet  L=5.14E-6 W=3.78E-6
T22 (net14 0 0 0) pfet L=7.09E-6 W=8.66E-6
T23 (net16 net9 net9 0) pfet L=8.39E-6 W=7.50E-6
R24 (vdd! net17) R=9.3E3
T25 (net25 net14 net14 0) pfet L=4.32E-6 W=3.15E-6
R26 (net3 net4) R=2.3E2
T27 (net9 net10 net10 0) pfet L=8.52E-6 W=2.40E-6
C28 (net20 net3) C=7.2E-12
T29 (net8 net19 net19 0) pfet L=6.31E-6 W=8.59E-6
R30 ( net12 net1)  R=9.3E1
T31 ( net1 net26 vdd! vdd!)  pfet  L=8.52E-6 W=5.91E-6
T32 ( net2 net26 vdd! vdd!)  pfet  L=8.52E-6 W=5.91E-6
T33 ( vdd! net1 net2 vdd!)  pfet  L=8.52E-6 W=5.91E-6
C34 (net23 net9) C=3.4E-14
R35 (net5 net24) R=1.6E1
T36 (0 net16 net16 0) pfet L=6.90E-6 W=1.57E-6
T37 (net25 net25 net25 0) nfet L=8.56E-6 W=0.91E-6
R38 (net19 net9) R=3.2E2

