T1 (net3 0 0 0) pfet L=8.28E-6 W=7.61E-6
T2 (net4 net3 net3 0) pfet L=1.42E-6 W=5.86E-6
T3 (net17 net5 net5 0) pfet L=1.11E-6 W=2.70E-6
R4 (net6 net15) R=9.1E0
T5 (net6 net11 net11 0) pfet L=7.61E-6 W=0.14E-6
T6 (net5 net13 net13 0) nfet L=5.58E-6 W=9.49E-6
T7 (vdd! net6 net6 0) pfet L=8.79E-6 W=7.62E-6
R8 (net7 net17) R=4.3E5
T9 (0 net11 net11 0) pfet L=9.89E-6 W=0.72E-6
T10 (vdd! net22 net22 0) pfet L=6.38E-6 W=4.26E-6
T11 (net6 net5 net5 0) pfet L=8.88E-6 W=3.65E-6
R12 (net23 net5) R=7.5E3
T13 (net18 net10 net10 0) nfet L=5.50E-6 W=7.18E-6
T14 (net1 net19 net19 0) pfet L=4.51E-6 W=2.42E-6
R15 (net16 net7) R=0.7E6
R16 (net17 net6) R=7.5E5
T17 ( net16 net16 vdd! vdd!)  pfet  L=2.81E-6 W=6.88E-6
T18 ( net5 net16 vdd! vdd!)  pfet  L=2.81E-6 W=6.88E-6
R19 ( net5 net22)  R=9.2E5
T20 (vdd! net19 net19 0) pfet L=4.22E-6 W=3.04E-6
T21 (net4 net9 net9 0) pfet L=1.47E-6 W=0.43E-6
T22 (net4 net20 net20 0) pfet L=3.70E-6 W=7.06E-6
R23 (net2 net4) R=4.3E2
T24 (net4 net13 net13 0) pfet L=7.99E-6 W=2.62E-6
C25 (net13 net21) C=8.4E-13
R26 (net11 net1) R=7.1E6
T27 (net6 net19 net19 0) nfet L=8.34E-6 W=2.78E-6
T28 (net1 net7 net7 0) nfet L=4.24E-6 W=9.89E-6
R29 (vdd! net19) R=7.2E2

