R1 (net14 net13) R=0.8E6
T2 (net4 net11 net11 0) pfet L=6.25E-6 W=0.55E-6
C3 (0 net13) C=3.1E-10
C4 (net9 net11) C=1.4E-14
C5 (net2 net4) C=7.1E-6
T6 (net13 net8 net8 0) nfet L=8.65E-6 W=7.70E-6
R7 ( net12 net10)  R=2.7E5
T8 ( net10 net10 net2 0)  nfet  L=0.84E-6 W=4.37E-6
T9 ( net2 net17 0 0)  nfet  L=0.84E-6 W=4.37E-6
T10 ( net17 net17 0 0)  nfet  L=0.84E-6 W=4.37E-6
T11 ( net5 net10 net17 0)  nfet  L=0.84E-6 W=4.37E-6
T12 (net8 net8 net8 0) pfet L=0.27E-6 W=7.13E-6

