R1 ( net6 net16)  R=4.0E3
T2 ( net16 net16 net1 0)  nfet  L=6.75E-6 W=7.25E-6
T3 ( net1 net5 0 0)  nfet  L=6.75E-6 W=7.25E-6
T4 ( net5 net5 0 0)  nfet  L=6.75E-6 W=7.25E-6
T5 ( net10 net16 net5 0)  nfet  L=6.75E-6 W=7.25E-6
T6 (net12 net3 net3 0) nfet L=6.44E-6 W=8.14E-6
T7 (net15 net11 net11 0) nfet L=6.93E-6 W=6.64E-6
R8 (net14 net11) R=9.0E5
R9 (net15 net2) R=5.4E1
C10 (net4 net2) C=8.9E-12

