T1 (net4 net4 net4 0) nfet L=8.15E-6 W=0.61E-6
T2 (net17 vdd! vdd! 0) pfet L=4.60E-6 W=3.12E-6
R3 (net6 net2) R=9.6E1
R4 (net13 net21) R=2.2E3
T5 ( net9 net9 0 0)  nfet  L=5.93E-6 W=6.65E-6
T6 ( net6 net9 0 0)  nfet  L=5.93E-6 W=6.65E-6
R7 ( net6 net2)  R=3.1E5
C8 (net19 net12) C=2.0E-8
R9 (vdd! net10) R=4.3E3
R10 (vdd! net13) R=3.0E0
T11 (net9 net10 net10 0) pfet L=9.87E-6 W=1.57E-6
R12 (net1 0) R=8.9E5
T13 (net11 net11 net11 0) nfet L=9.30E-6 W=6.55E-6
R14 (vdd! net7) R=4.6E3
T15 (net13 net4 net4 0) nfet L=4.79E-6 W=9.23E-6
T16 (net1 net5 net5 0) pfet L=5.79E-6 W=8.17E-6
R17 (net9 net21) R=0.6E0
R18 (net21 net19) R=2.2E3
T19 (net18 net8 net8 0) pfet L=5.42E-6 W=2.23E-6
R20 (net21 net13) R=6.6E4
C21 (net4 net12) C=3.7E-12
R22 (net12 net21) R=1.2E4
T23 (net17 net18 net18 0) pfet L=5.18E-6 W=2.94E-6
C24 (vdd! net12) C=8.0E-5
C25 (net21 net15) C=6.4E-14
T26 (net20 net15 net15 0) nfet L=5.41E-6 W=8.12E-6
R27 (net18 net20) R=9.3E0
C28 (net11 net8) C=5.4E-6
C29 (net7 net17) C=6.4E-13
T30 (net21 net15 net15 0) pfet L=7.87E-6 W=0.32E-6
C31 (net2 net11) C=1.7E-6
C32 (net8 net15) C=3.6E-14
C33 (net21 net9) C=9.8E-12
R34 (net4 net14) R=3.3E0
R35 (net19 net3) R=4.5E1
T36 (net1 net9 net9 0) pfet L=4.89E-6 W=6.07E-6

