T1 (vdd! net14 net14 0) pfet L=9.90E-6 W=8.65E-6
R2 (net7 net12) R=5.3E6
R3 (net35 net21) R=1.1E5
T4 (net22 vdd! vdd! 0) nfet L=0.80E-6 W=8.21E-6
T5 (net32 net31 net31 0) nfet L=8.36E-6 W=3.80E-6
T6 (net4 net3 net3 0) nfet L=0.33E-6 W=4.80E-6
R7 (net36 net22) R=8.6E2
C8 (net8 net22) C=0.4E-14
C9 (net22 net10) C=2.5E-9
R10 ( net18 net11)  R=6.4E5
T11 ( net11 net4 vdd! vdd!)  pfet  L=9.15E-6 W=0.37E-6
T12 ( net15 net4 vdd! vdd!)  pfet  L=9.15E-6 W=0.37E-6
T13 ( net26 net11 net15 vdd!)  pfet  L=9.15E-6 W=0.37E-6
T14 (net20 net14 net14 0) pfet L=5.38E-6 W=7.41E-6
T15 (net40 net30 net30 0) pfet L=6.68E-6 W=4.75E-6
R16 (net2 net1) R=2.7E0
R17 (net39 net27) R=6.8E0
R18 (net36 net20) R=7.8E1
C19 (net1 net27) C=9.2E-14
T20 (net28 net14 net14 0) pfet L=5.29E-6 W=5.64E-6
T21 (net8 vdd! vdd! 0) pfet L=5.98E-6 W=8.00E-6
R22 (net36 net16) R=2.9E5
C23 (net32 net39) C=7.8E-12
T24 (net22 net14 net14 0) nfet L=2.09E-6 W=0.70E-6
T25 (net36 net39 net39 0) pfet L=3.57E-6 W=3.72E-6
R26 (net29 0) R=6.7E1
C27 (vdd! net32) C=7.9E-5
R28 (net32 net6) R=7.1E1
T29 (net30 net7 net7 0) pfet L=7.27E-6 W=1.83E-6
C30 (net30 net21) C=3.5E-9
C31 (net19 net18) C=9.8E-12
T32 (net20 0 0 0) pfet L=4.92E-6 W=2.83E-6
R33 ( net24 net40)  R=5.1E0
T34 ( net40 net40 net17 vdd!)  pfet  L=8.58E-6 W=3.86E-6
T35 ( net17 net9 vdd! vdd!)  pfet  L=8.58E-6 W=3.86E-6
T36 ( net9 net9 vdd! vdd!)  pfet  L=8.58E-6 W=3.86E-6
T37 ( net23 net40 net9 vdd!)  pfet  L=8.58E-6 W=3.86E-6
T38 (net29 net14 net14 0) pfet L=3.59E-6 W=5.24E-6
C39 (net16 net29) C=7.1E-10
R40 (net26 net12) R=6.4E6

